US04041173
45 G. of a mixture of 3-(p-methoxybenzylidene)phthalide-5- and -6- carboxylic acids, obtained by the condensation of p-methoxyphenylacetic acid and benzene-1,2,4-tricarboxylic anhydride as described in Example 1, was hydrogenated for 20 hours in 250 ml of dimethylformamide containing 10.5 g. of 10% palladium on carbon catalyst. The solution was filtered and the filtrate evaporated. The residue was recrystallized from aqueous acetic acid to afford 3-(p-methoxybenzyl)phthalide-5- and -6- carboxylic acids. 24.1 G of this mixture was dissolved in 90 ml of dimethylsulfoxide and 30 g. of potassium tertbutoxide was added. After 15 minutes the solution was poured into water, acidified with acetic acid, and the product filtered off. Fractional crystallization from dioxan afforded 4'-methoxy-trans-stilbene 2,4-dicarboxylic acid as the less soluble isomer, and 4'-methoxy-trans-stilbene-2,5-dicarboxylic acid as the more soluble isomer. 2.4 G. of 4'-methoxy-trans-stilbene-2,5-dicarboxylic acid was hydrogenated for 41/2 hours in 20 ml dimethylformamide and 20 ml of acetic acid containing 0.3 g. of 10% palladium on carbon catalyst. The solution was filtered and evaporated and the residue recrystallized from aqueous ethanol to afford 2-(4-methoxyphenethyl)benzene-1,4-dicarboxylic acid. This compound was then cyclized by the procedure of part A of this example to give 2-carboxy-7-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene having a m.p. of 201°-203° C.

reactant | 4'-methoxy-trans-stilbene-2,5-dicarboxylic acid | COC1=CC=C(/C=C/C=2C(=CC=C(C2)C(=O)O)C(=O)O)C=C1 | C17H14O5
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 20 ml, 0.3 g | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | 2-(4-methoxyphenethyl)benzene-1,4-dicarboxylic acid | COC1=CC=C(CCC2=C(C=CC(=C2)C(=O)O)C(=O)O)C=C1 | C17H16O5
